US07314511B2
3,6-Bis(2′-methylphenylthio) phthalonitrile
2-Methylthiophenol (10.60 g, 85.5 mmol), potassium carbonate (11.82 g, 82.0 mmol) and ditosylated dicyanohydroquinone (20.00 g, 42.7 mmol) in DMF (75 mL) were reacted as described above. The mixture was isolated as described above to give a yellow oil. The material was purified by flash column chromatography (eluting 10% ethyl acetate:isohexane) to give the title compound as a yellow solid (8.85 g, 23.8 mmol, 42%). [Found: C, 70.7%; H, 4.6%; N, 7.5%; S, 17.2%; C22H16N2S2 requires C, 70.9%; H, 4.3%; N, 7.5%; S, 17.2%]; MS (EI+) 372 (M+, 100%), 357 (M-CH3, 8), 339 (20).

reactant | 2-Methylthiophenol | 85.5 mmol, 10.60 g | CC1=C(C=CC=C1)S | C7H8S
reactant | potassium carbonate | 82.0 mmol, 11.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 3,6-Bis(2′-methylphenylthio) phthalonitrile | 23.8 mmol, 8.85 g, 42% | CC1=C(C=CC=C1)SC1=C(C(C#N)=C(C=C1)SC1=C(C=CC=C1)C)C#N | C22H16N2S2
